US07265108B2
1-[1-(tert-Butoxycarbonyl)piperidin-4-yl]-2-[2-(3-pyridyl)phenyl]ethanone
After dissolving 575 mg of 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-2-(2-bromophenyl)ethanone in 10 ml of N,N-dimethylformamide, there were added 489 mg of 2-(3-pyridyl)-1,3,2-dioxaborinane, 173 mg of tetrakis(triphenylphosphine)palladium(0) and 1.47 g of anhydrous cesium carbonate, and the mixture was stirred at 100° C. for 2 hours under a nitrogen atmosphere. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (379 mg, 66% yield).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-2-(2-bromophenyl)ethanone | 575 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=C(C=CC=C1)Br)=O | C18H24BrNO3
reactant | 2-(3-pyridyl)-1,3,2-dioxaborinane | 489 mg | N1=CC(=CC=C1)B1OCCCO1 | C8H10BNO2
reactant | cesium carbonate | 1.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(tert-Butoxycarbonyl)piperidin-4-yl]-2-[2-(3-pyridyl)phenyl]ethanone | 379 mg, 66% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=C(C=CC=C1)C=1C=NC=CC1)=O | C23H28N2O3
